US04472305
Condensation of BocPro-Phe-Phe-GlyOH (1.61 g.) and HGal-MetNH2 dihydrochloride salt (0.70 g.) using dicyclohexylcarbodiimide and 4-dimethylaminopyridine as catalyst gave BocPro-Phe-Phe-Gly-Gal-MetNH2 in 28% yield. De-t-butoxycarbonylation of BocPro-Phe-Phe-Gly-Gal-MetNH2 (0.44 g.) using hydrogen chloride in acetic acid gave HPro-Phe-Phe-Gly-Gal-MetNH2, which was isolated as the amorphous white solid dihydrochloride acetate salt hydrate in 35% yield.

reactant | BocPro-Phe-Phe-Gly Gal MetNH2 | 0.44 g | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)O)CCC1)C(=O)OC(C)(C)C.OC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO.N[C@@H](CCSC)C(=O)N
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HPro-Phe-Phe-Gly Gal MetNH2 | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)O)CCCC1.OC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO.N[C@@H](CCSC)C(=O)N | InChI=1S/C26H32N4O5.C6H12O6.C5H12N2OS/c31-23(32)17-28-24(33)21(15-18-9-3-1-4-10-18)29-26(35)22(16-19-11-5-2-6-12-19)30-25(34)20-13-7-8-14-27-20;7-1-2-3(8)4(9)5(10)6(11)12-2;1-9-3-2-4(6)5(7)8/h1-6,9-12,20-22,27H,7-8,13-17H2,(H,28,33)(H,29,35)(H,30,34)(H,31,32);2-11H,1H2;4H,2-3,6H2,1H3,(H2,7,8)/t20-,21-,22-;2-,3+,4+,5-,6?;4-/m010/s1
